US05461060
To a solution of 5.6 g (40 mmol) of 5-ethyluracil in 60 ml of dimethylformamide, 5.5 g (40 mmol) of potassium carbonate and 2.3 ml (20 mmol) of n-iodobutane were added and stirred for 2 hours at 120° C. The reaction mixture was concentrated under reduced pressure and distributed between dichloromethane and aqueous solution of ammonium chloride, and the organic layer was concentrated under reduced pressure. The residue was adsorbed on a silica gel column and eluted with 30% ethyl acetate/hexane to obtain 2.7 g of 1-butyl-5-ethyluracil (Yield: 69%).

reactant | 5-ethyluracil | 40 mmol, 5.6 g | C(C)C=1C(NC(NC1)=O)=O | C6H8N2O2
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-butyl-5-ethyluracil | 2.7 g, Yield: 69% | C(CCC)N1C(=O)NC(=O)C(=C1)CC | C10H16N2O2
